US08557872B2
Step 1: Synthesis of 3-(2,6-dipropyl-4-trifluoromethyl-phenyl)-acrylic acid methyl ester
In a 100 ml flask, 4-iodobenzotrifluoride (1 g, 3.68 mmol) was dissolved in 10 ml DMF, and Pd(OAc)2 (165 mg, 0.2 eq), K2CO3 (2.54 g, 5.0 eq), KOAc (1.8 g, 5.0 eq), norbornylene (692 mg, 1.0 eq), methyl acrylate (0.33 ml, 1.0 eq), and iodopropane (3.75 g, 6.0 eq) were added stepwisely at room temperature. The resulting reaction mixture was stirred for 3 days. After the completion of the reaction, the Na2S2O3 solution was poured into the reaction mixture, which was stirred for 30 minutes, extracted with EtOAc 50 ml (3 times), and dried with anh. MgSO4. The organic layer was filtered, concentrated in vacuo, and purified with column chromatography (Hexane: EtOAc=8:1) to give the title compound (0.343 g, 30%).

reactant | 4-iodobenzotrifluoride | 3.68 mmol, 1 g | IC1=CC=C(C=C1)C(F)(F)F | C7H4F3I
reactant | K2CO3 | 2.54 g, 5.0 eq | C(=O)([O-])[O-].[K+].[K+]
reactant | KOAc | 1.8 g, 5.0 eq | CC(=O)[O-].[K+]
reactant | norbornylene | 692 mg, 1.0 eq | C12C=CC(CC1)C2 | C7H10
reactant | methyl acrylate | 0.33 ml, 1.0 eq | C(C=C)(=O)OC | C4H6O2
reactant | iodopropane | 3.75 g, 6.0 eq | ICCC | C3H7I
reactant | Na2S2O3 | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | 165 mg, 0.2 eq | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 3-(2,6-dipropyl-4-trifluoromethyl-phenyl)-acrylic acid methyl ester | 0.343 g, 30% | COC(C=CC1=C(C=C(C=C1CCC)C(F)(F)F)CCC)=O | C17H21F3O2
